US05334740
Fifty milliliters of a saturated magnesium sulfate aqueous solution were cooled to 10° C., and 10.23 g of sodium cyanide was gradually added not to proceed over 10° C. After stirring at 10° C. for 45 minutes, a solution of 7.61 g of 1,2-epoxy-3,4-(dimethylmethylenedioxy)-5-hexene in 30 ml of methanol was gradually added to the above mixture not to proceed over 10° C. After stirring at room temperature for 2 hours, the reaction mixture was extracted with ethyl acetate. The extract was washed with a sodium chloride aqueous solution, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography to afford 2.11 g of 4,5-(dimethylmethylenedioxy)-3-hydroxy-6-heptenenitrile having the following properties.

reactant | magnesium sulfate | Fifty milliliters | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | sodium cyanide | 10.23 g | [C-]#N.[Na+]
reactant | 1,2-epoxy-3,4-(dimethylmethylenedioxy)-5-hexene | 7.61 g | O1CC1C1C(C=C)OC(O1)(C)C | C9H14O3
solvent | methanol | 30 ml | CO | CH4O
product | 4,5-(dimethylmethylenedioxy)-3-hydroxy-6-heptenenitrile | 2.11 g | CC1(OC(C(CC#N)O)C(C=C)O1)C | C10H15NO3
